US07615552B2
2,4-Dichloro-6-nitro-pyrido[2,3-d]pyrimidine (5.8 g; 23.8 mmol) was dissolved in dichloromethane (100 mL), and chilled in a dry ice bath. To the cold solution was added morpholine (2.07 g; 23.8 mmol), and diisopropylethylamine (3.07 g; 23.8 mmol) and it was allowed to warm gradually to room temperature. The solution was washed with a saturated ammonium chloride solution (2×50 mL), dried over magnesium sulfate, and evaporated to give 2-chloro-4-morpholino-6-nitro-pyrido[2,3-d]pyrimidine (6.7 g.).

reactant | 2,4-Dichloro-6-nitro-pyrido[2,3-d]pyrimidine | 23.8 mmol, 5.8 g | ClC=1N=C(C2=C(N1)N=CC(=C2)[N+](=O)[O-])Cl | C7H2Cl2N4O2
reactant | morpholine | 23.8 mmol, 2.07 g | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 23.8 mmol, 3.07 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-chloro-4-morpholino-6-nitro-pyrido[2,3-d]pyrimidine | 6.7 g | ClC=1N=C(C2=C(N1)N=CC(=C2)[N+](=O)[O-])N2CCOCC2 | C11H10ClN5O3
